US08685986B2
N-[4-(Thiazol-2-yl)benzyl]pyridin-2-ylsulfonamide
Reaction and post-treatment were carried out in the same manner as in Reference Example 2-(d) except for using 2-pyridylsulfonyl chloride (see Heterocycles, 28, 1115 (1989)) (220 mg, 1.24 mmol) in place of 3-pyridylsulfonyl chloride, and using 4-(thiazol-2-yl)benzylamine hydrochloride (300 mg, 1.14 mmol) obtained in Reference Example 4-(d) in place of (6-phenylpyridazin-3-ylmethyl)amine hydrochloride to afford the title compound (284 mg) as a white solid. (Yield: 75%)

reactant | 2-pyridylsulfonyl chloride | 1.24 mmol, 220 mg | N1=C(C=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
reactant | 4-(thiazol-2-yl)benzylamine hydrochloride | 1.14 mmol, 300 mg | Cl.S1C(=NC=C1)C1=CC=C(CN)C=C1
reactant | (6-phenylpyridazin-3-ylmethyl)amine hydrochloride | Cl.C1(=CC=CC=C1)C1=CC=C(N=N1)CN
product | N-[4-(Thiazol-2-yl)benzyl]pyridin-2-ylsulfonamide | 284 mg, Yield: 75% | S1C(=NC=C1)C1=CC=C(CNS(=O)(=O)C2=NC=CC=C2)C=C1 | C15H13N3O2S2
